US05216148
1.69 ml of 3N sodium hydroxide solution were added to 1.00 g of ethyl p-(2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepin-7-carboxamido)benzoate in 10 ml of ethanol/tetrahydrofuran (1:1). The reaction mixture was stirred at room temperature for 3 days and thereafter poured on to ice/conc. hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution, dried and evaporated. Recrystallization from ethyl acetate yielded 0.81 g of p-(2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepine-7-carboxamido)benzoic acid, m.p. >275° C.

reactant | sodium hydroxide | 3N, 1.69 ml | [OH-].[Na+]
reactant | ethyl p-(2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepin-7-carboxamido)benzoate | 1.00 g | CN1C(CCC(C2=C1C=CC(=C2)C(=O)NC2=CC=C(C(=O)OCC)C=C2)(C)C)=O | C23H26N2O4
solvent | ethanol tetrahydrofuran | 10 ml | C(C)O.O1CCCC1
product | p-(2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepine-7-carboxamido)benzoic acid | 0.81 g | CN1C(CCC(C2=C1C=CC(=C2)C(=O)NC2=CC=C(C(=O)O)C=C2)(C)C)=O | C21H22N2O4
